US07745641B2
In a similar manner to Step 2 of Example 16. N-(1-methyl-1-phenylethyl)benzamide (5.00 g, 20.9 mmol) was dissolved in THF (200 mL), and the solution was treated with TMEDA (10.0 mL, 66.9 mmol), sec-butyl lithium-hexane solution (1.01 mol/L, 66.0 mL, 66.9 mmol) and DMF (3.60 mL, 46.0 mmol), followed by purification by slurry using diisopropylether to obtain 3-hydroxy-2-(1-methyl-1-phenylethyl)isoindolinone (5.40 g, yield 97%).

reactant | N-(1-methyl-1-phenylethyl)benzamide | 20.9 mmol, 5.00 g | CC(C)(C1=CC=CC=C1)NC(C1=CC=CC=C1)=O | C16H17NO
reactant | TMEDA | 66.9 mmol, 10.0 mL | CN(C)CCN(C)C | C6H16N2
reactant | DMF | 46.0 mmol, 3.60 mL | CN(C)C=O | C3H7NO
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 3-hydroxy-2-(1-methyl-1-phenylethyl)isoindolinone | 5.40 g, yield 97% | OC1N(C(C2=CC=CC=C12)=O)C(C)(C1=CC=CC=C1)C | C17H17NO2
